US05929072
2-Aminoacetophenone(5.6 g, 41.5 mmol)and sulfamide (4 g, 41.5 mm) were added to diglyme (70 ml, dried over 4A molecular sieves) and the solution heated under nitrogen at 150° C. After 1 hour a solid forms but heating was continued for 2 hours in total. After cooling, ether was added followed by 2N sodium hydroxide which dissolved the solid formed. The aqueous phase was collected, diluted with ethanol and (prop-2-en-1-yl) bromide (8 ml) added, stirring being continued overnight. After concentration under vacuo the residue was partitioned between water and ethyl acetate. The organic phase was collected, dried, over magnesium sulfate, filtered and the solvent evaporated under reduced pressure to yield a yellow oil, 3,4-dihydro-4-methyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide. 3,4-Dihydro-4-methyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide(2.4 g, 10 mmol) was dissolved in dry tetrahydrofuran (40 ml) under nitrogen and the solution cooled to -78° C. in an acetone/dry ice bath. Methyl magnesium bromide (5 ml, 3M solution in ether) was added at this temperature and kept for 30 minutes when it was allowed to come to room temperature. After stirring for 2 hours, water was added and the solution concentrated. Partitioning between ethyl acetate and dilute HCl(aq) and collection of the organic extracts followed by drying, filtering and removal of solvent gave a product showing 75% conversion to product. Column chromatography eluting with ethyl acetate/hexane gave product, 3,4-dihydro-4,4-dimethyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide. This compound (1.85 g, 7.3 mmol) was dissolved in N-methylpyrrolidine (30 ml) under nitrogen and sodium hydride (350 mg) was added at room temperature resulting in a vigorous effervescence. After the gas evolution had subsided (30 minutes), methyl iodide (300 mg) was added and the solution stirred overnight. The reaction was poured onto water and extracted with ethyl acetate(3×50 ml). Organic phase was washed with water (2×100 ml), dried, filtered and vacced to an oil, 3,4-dihydro-1-(prop-2-en-1-yl)-3,4,4-trimethyl-1H-2,1,3-benzothiadiazine-2,2-dioxide.

reactant | 3,4-Dihydro-4-methyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | 10 mmol, 2.4 g | CC1NS(N(C2=C1C=CC=C2)CC=C)(=O)=O | C11H14N2O2S
reactant | Methyl magnesium bromide | 3M, 5 ml | C[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-4,4-dimethyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | CC1(NS(N(C2=C1C=CC=C2)CC=C)(=O)=O)C | C12H16N2O2S
